US07199239B2
Intermediate 62: 4-Chloro-5-methyl-6-[4-(trifluoromethyl)phenyl]pyrimidine
To a solution of 4,6-dichloro-5-methylpyrimidine (1 g, 6.13 mmol) in dimethoxyethane (28 mL) and water (14 mL) was added sodium carbonate (1.69 g, 16.0 mmol), 4-trifluoromethylphenylboronic acid (1.165 g, 6.13 mmol) and tetrakis(triphenylphosphine)palladium (0) (0.14 g). The resulting mixture was heated at reflux under nitrogen for 18 h, the reaction mixture was allowed to cool to room temperature and diluted with water (100 mL) before extraction into CHCl3 (2×100 mL). The organic solution separated by hydrophobic frit and the solvents removed in vacuo. Purification by Biotage™ chromatography (Silica, 90 g) eluting with 19:1 cyclohexane:EtOAc afforded the title compound as a white solid (1.1 g).

reactant | 4,6-dichloro-5-methylpyrimidine | 6.13 mmol, 1 g | ClC1=NC=NC(=C1C)Cl | C5H4Cl2N2
reactant | sodium carbonate | 16.0 mmol, 1.69 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-trifluoromethylphenylboronic acid | 6.13 mmol, 1.165 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
solvent | dimethoxyethane | 28 mL | C(OC)COC | C4H10O2
solvent | water | 14 mL | O | H2O
solvent | water | 100 mL | O | H2O
solvent | CHCl3 | 100 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | tetrakis(triphenylphosphine)palladium | 0.14 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Chloro-5-methyl-6-[4-(trifluoromethyl)phenyl]pyrimidine | 1.1 g | ClC1=NC=NC(=C1C)C1=CC=C(C=C1)C(F)(F)F | C12H8ClF3N2
